US08357706B2
(S)-tert-butyl (4-cyano-2,3-dihydro-1H-inden-1-yl)(2-(dimethylamino)-2-oxoethyl)carbamate INT-60 was prepared analogously to INT-59 from (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate INT-53 and 2-chloro-N,N-dimethylacetamide.

reactant | (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate | C(#N)C1=C2CC[C@@H](C2=CC=C1)NC(OC(C)(C)C)=O | C15H18N2O2
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | (S)-tert-butyl (4-cyano-2,3-dihydro-1H-inden-1-yl)(2-(dimethylamino)-2-oxoethyl)carbamate | C(#N)C1=C2CC[C@@H](C2=CC=C1)N(C(OC(C)(C)C)=O)CC(=O)N(C)C | C19H25N3O3
